US04496572
A solution of bromine (3.20 g) in chloroform (10 ml) was added dropwise to a stirred solution of 5-bromo-3-methylbenzo[b]-thiophene (4.54 g) in chloroform (40 ml) and the solution was stirred at room temperature for 1.5 hours. It was then washed with dilute sodium hydroxide solution, water and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallised from petrol (b.p. 80°-100°) to give 2,5-dibromo-3-methylbenzo[b]-thiophene (5.45 g), m.p. 118°-122°.

reactant | bromine | 3.20 g | BrBr | Br2
reactant | 5-bromo-3-methylbenzo[b]-thiophene | 4.54 g | BrC1=CC2=C(SC=C2C)C=C1 | C9H7BrS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,5-dibromo-3-methylbenzo[b]-thiophene | 5.45 g | BrC1=C(C2=C(S1)C=CC(=C2)Br)C | C9H6Br2S
